US07179934B2
(4R,5R)-3-Methoxyamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester
A 2 L 3-necked round bottom flask, equipped with magnetic stirring and nitrogen inlet, was charged with 153 g (0.71 mol) of (4R,5R)-4,5-dimethyl-3-oxo-octanoic acid ethyl ester and 600 mL of anhydrous EtOH. The solution was cooled to 0° C.–5° C. with an ice bath and 65.6 g (0.79 mol) of methoxylamine hydrochloride was added, followed by 58.6 g (0.71 mol) of sodium acetate. This flask contents were slowly warmed to room temperature (about 2 hours) and the reaction mixture was stirred at room temperature for another 24 hours. The solvent (EtOH) was removed under reduced pressure and the mixture was charged with CH2Cl2 (2×300 mL), which was subsequently removed. The mixture was cooled to RT, diluted with CH2Cl2 (300 mL), stirred at room temperature for 0.5 hours, and filtered under 5 psig of nitrogen. The filter cake was washed with CH2Cl2 (150 mL). The filtrate was concentrated under vacuum (50° C.) to give 172 g (99% yield) of the titled compound as a light yellow oil: 1H NMR (400 MHz, CHLOROFORM-D) 0.87 (t, J=3.5 Hz, 5H), 0.89 (d, J=7.2 Hz, 3H), 1.08 (d, J=7.0 Hz, 3H), 1.24 (t, J=7.2 Hz, 4H), 1.3–1.55 (m, 2H), 2.25 (m, 1H), 3.15 (q, J=19.5 Hz, 2H) 3.81 (s, 3H), 4.14 (q, J=7.0 Hz, 2H).

reactant | (4R,5R)-4,5-dimethyl-3-oxo-octanoic acid ethyl ester | 0.71 mol, 153 g | C(C)OC(CC([C@@H]([C@@H](CCC)C)C)=O)=O | C12H22O3
reactant | methoxylamine hydrochloride | 0.79 mol, 65.6 g | Cl.O(C)N
reactant | sodium acetate | 0.71 mol, 58.6 g | C(C)(=O)[O-].[Na+]
solvent | EtOH | 600 mL | CCO | C2H6O
product | (4R,5R)-3-Methoxyamino-4,5-dimethyl-(Z)-oct-2-enoic acid ethyl ester | 172 g, 99% yield | C(C)OC(\C=C(\[C@@H]([C@@H](CCC)C)C)/NOC)=O | C13H25NO3
